US20010047014A1
To a solution of 43.0 g (126 mmol) (3R,4R) and (3S,4S)-4-benzyl-3,4-dihydroxy-piperidine-1-carboxylic acid benzyl ester and 23.1 g (189 mmol) DMAP in 600 ml CH2Cl2 were added dropwise under argon 500 ml (340 mmol, 0.70 N) (S)-N-trifluoroacetyl-prolinechloride. The reaction mixture was stirred for 16 hours at r.t. and then sat. NaHCO3 solution was added. The aqueous phase was extracted three times with CH2Cl2 and the combined organic layers were washed with sat. NaHCO3 and 1N HCl, dried over MgSO4 and the solvent was removed under reduced pressure to give the crude product. Purification by chromatography on silica gel (hexane:ethyl acetate 4:1 to 1:1) and crystallization from diethylether yielded 17.9 g (33 mmol, 27%) (3R,4R), 4-benzyl-4-hydroxy-3-(2S)-trifluoroacetyl-cyclopentanecarbonyloxy)-piperidine-1-carboxylic acid benzyl ester.

reactant | (3S,4S)-4-benzyl-3,4-dihydroxy-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@](CC1)(O)CC1=CC=CC=C1)O | C20H23NO4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | DMAP | 189 mmol, 23.1 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 600 ml | C(Cl)Cl | CH2Cl2
product | piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCCCC1 | C13H17NO2
